US04985427
Dihydro-4-methyl-1-phenyl-1,2,4-triazine-3,5-(2H,4H)-dione
Potassium t-butoxide (11.33 g) was added over 12 min. to a stirred suspension of methyl [2-[(methylamino)carbonyl]-1-phenylhydrazino]-acetate (20.0 g) in methyl isobutyl ketone (200 ml) under nitrogen at 24°-31°. After stirring for 30 min., 1M hydrochloric acid (200 ml) was added at 15°-20°. The resultant suspension was cooled to 0°-5° for 30 min., and the solid was filtered off, washed with water (100 ml) followed by methyl isobutyl ketone (100 ml) and dried in vacuo to give the title compound (13.86 g).

reactant | Potassium t-butoxide | 11.33 g | CC(C)([O-])C.[K+]
reactant | methyl [2-[(methylamino)carbonyl]-1-phenylhydrazino]-acetate | 20.0 g | CNC(=O)NN(C1=CC=CC=C1)CC(=O)OC | C11H15N3O3
reactant | hydrochloric acid | 1M, 200 ml | Cl | ClH
solvent | methyl isobutyl ketone | 200 ml | C(C(C)C)C(=O)C | C6H12O
product | Dihydro-4-methyl-1-phenyl-1,2,4-triazine-3,5-(2H,4H)-dione | 13.86 g | CN1C(NN(CC1=O)C1=CC=CC=C1)=O | C10H11N3O2
